US06743785B2
1-(Pent-4-en-1-yl)-7-vinyl-1H-indole
To a 0° C. solution of 7-vinylindole (5.0 g, 34.9 mmol) in 140 mL of dimethylformamide was added sodium hydride (60% dispersion in mineral oil) (3.5 g, 87.3 mmol). The ice bath was removed and the solution was warmed to 20-24° C. and stirred an additional 30 minutes. 5-Bromo-1-pentene (20 mL, 175 mmol) was added dropwise and stirring continued for 3 hrs. The solution was poured into 150 mL of water and 150 mL of ethyl acetate. The aqueous layer was washed with additional ethyl acetate (3×100 mL) and the combined organic layers were washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 5-10% ethyl acetate in hexanes. Fractions containing product were combined and concentrated under reduced pressure to provide 5.39 g (73%) of the desired compound as a clear oil.

reactant | 7-vinylindole | 34.9 mmol, 5.0 g | C(=C)C=1C=CC=C2C=CNC12 | C10H9N
reactant | sodium hydride | 87.3 mmol, 3.5 g | [H-].[Na+]
reactant | 5-Bromo-1-pentene | 175 mmol, 20 mL | BrCCCC=C | C5H9Br
reactant | water | 150 mL | O | H2O
solvent | dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 1-(Pent-4-en-1-yl)-7-vinyl-1H-indole | 5.39 g, 73% | C(CCC=C)N1C=CC2=CC=CC(=C12)C=C | C15H17N
